US06664291B2
4-(2,6-Dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol
A solution of 2-(4-fluoro-benzenesulfonyl)-benzene-1,4-diol (10.0 g, 37.3 mmol) in dry 1-methyl-2-pyrrolidinone (100 mL) with 3 A molecular sieves (3.0 g) was sparged with dry nitrogen for 15 min at RT. The solution was cooled to 0° C. and potassium bis(trimethylsilyl)amide (18.59 g, 93.2 mmol) was added in a single portion to give a deep red suspension. The suspension was warmed to RT with continued sparging. 18-Crown-6 (10.8 g, 41.0 mmol) was added in a single portion and the solution was cooled to 0° C. To the cooled suspension was added 2-chloro-1,3-dimethyl-5-nitro-benzene (8.30 g, 44.7 mmol) to give a brown solution and sparging was ceased. The solution warmed to RT and stirred under dry nitrogen for 3 h. The crude reaction mixture was poured into 1M HCl (1 L) at 0° C. and extracted with EtOAc (3×300 mL). Combined extracts were washed with 1 M HCl (4×1 L) and brine (1 L), dried over anhydrous sodium sulfate, treated with activated carbon and filtered. The filtrate was concentrated to a tan solid which was filtered through silica gel (150 g) with 1:9:10 methanol:hexanes:CH2Cl2 (1.5 L). Concentration of the filtrate gave the title compound of Step C as a tan solid (11.4 g). The title product of Step C was used in the next step without further purification. MS (APCl−) Calc.: 417.1, Found: 416.0 (M−1).

reactant | 2-(4-fluoro-benzenesulfonyl)-benzene-1,4-diol | 37.3 mmol, 10.0 g | FC1=CC=C(C=C1)S(=O)(=O)C1=C(C=CC(=C1)O)O | C12H9FO4S
reactant | potassium bis(trimethylsilyl)amide | 93.2 mmol, 18.59 g | C[Si](C)(C)[N-][Si](C)(C)C.[K+]
reactant | 18-Crown-6 | 41.0 mmol, 10.8 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | 2-chloro-1,3-dimethyl-5-nitro-benzene | 44.7 mmol, 8.30 g | ClC1=C(C=C(C=C1C)[N+](=O)[O-])C | C8H8ClNO2
reactant | HCl | 1M, 1 L | Cl | ClH
solvent | 1-methyl-2-pyrrolidinone | 100 mL | CN1C(CCC1)=O | C5H9NO
product | 4-(2,6-Dimethyl-4-nitro-phenoxy)-2-(4-fluoro-benzenesulfonyl)-phenol | 11.4 g | CC1=C(OC2=CC(=C(C=C2)O)S(=O)(=O)C2=CC=C(C=C2)F)C(=CC(=C1)[N+](=O)[O-])C | C20H16FNO6S
